US04111923
(g) L-Leucyl-L-arginyl-L-proline N-ethylamide hydrochloride
To a solution of 1.8 g. of Nα -benzyloxycarbonyl-L-leucyl-L-arginyl-L-proline-N-ethylamide hydrochloride in 100 ml. of methanol is added 400 mg. of 20% palladium on carbon and the mixture is stirred under a hydrogen atmosphere for four hours. Disappearance of the starting material is determined by thin layer chromatography of samples of the solution. The catalyst is removed by filtration and the filtrate is evaporated to dryness. The product is used without further purification.

reactant | Nα -benzyloxycarbonyl-L-leucyl-L-arginyl-L-proline-N-ethylamide hydrochloride | Cl.C(C)NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)CCCNC(N)=N)=O)=O
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | L-Leucyl-L-arginyl-L-proline N-ethylamide hydrochloride | Cl.C(C)NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](N)CC(C)C)=O)CCCNC(N)=N)=O)=O | InChI=1S/C19H37N7O3.ClH/c1-4-23-17(28)15-8-6-10-26(15)18(29)14(7-5-9-24-19(21)22)25-16(27)13(20)11-12(2)3;/h12-15H,4-11,20H2,1-3H3,(H,23,28)(H,25,27)(H4,21,22,24);1H/t13-,14-,15-;/m0./s1
